US07714126B2
2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-thiomorpholin-4-yl-pyridin-3-yl)-amide (30 mg, 0.07 mmol) was dissolved in 3 mL of methylene chloride, and cooled down to −78° C. One equivalent of 3-chloroperoxybenzoic acid (12 mg, 0.07 mmol) was added. The reaction mixture was warmed up to room temperature and stirred for 2 hours. The reaction mixture was concentrated under reduced pressure, and then purified by flash chromatography (Merck silica gel 60, 230-400 mesh, 0-20% methanol in methylene chloride for 25 min) to gave 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(1-oxo-1λ4-thiomorpholin-4-yl)-pyridin-3-yl]-amide as an off-white solid. LCMS calcd for C20H17F3N4O3S (m/e) 450, obsd 451 (M+H).

reactant | 2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-thiomorpholin-4-yl-pyridin-3-yl)-amide | 0.07 mmol, 30 mg | N1(CCSCC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C20H17F3N4O2S
reactant | 3-chloroperoxybenzoic acid | 0.07 mmol, 12 mg, One equivalent | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(1-oxo-1λ4-thiomorpholin-4-yl)-pyridin-3-yl]-amide | O=S1CCN(CC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C20H17F3N4O3S
